US09290490B2
Methyl(triphenyl)phosphonium bromide (774 mg, 2.166 mmol) was suspended in anhydrous diethyl ether (5 mL) and potassium tert-butoxide (2.311 mmol, 1.78 M in THF, 1.29 mL) was added at 0° C. dropwise. The suspension was left 25 min at the same temperature (solution became orange-brown). A solution of diethyl ether (1 ml) and ethyl trans-4-[(5-bromo-1,3-thiazol-2-yl)carbonyl]cyclohexanecarboxylate (500 mg, 1.444 mmol) was added dropwise at 0° C. The mixture was left at the same temperature for 30 min, allowed to reach room temperature, left under stirring additional 90 min, diluted with water and taken up in ethyl acetate. The organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel (0% to 10% EtOAc in hexanes) to afford ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)ethenyl]-cyclohexanecarboxylate (62%) as an oil. MS ESI calc'd. for C14H18BrNO2S for [M+H]+ 344, 346. found 344, 346. 1H NMR (500 MHz, CDCl3) δ 7.55 (s, 1H), 5.60 (s, 1H), 5.19 (s, 1H), 4.04 (q, J=7.0, 2H), 2.62-2.78 (m, 1H), 2.20-2.30 (m, 1H), 1.90-2.02 (m, 3H), 1.50-1.60 (m, 2H), 1.10-1.30 (m, 2H), 1.17 (t, J=7.0, 3H), 0.72-0.82 (m, 1H).

reactant | potassium tert-butoxide | 2.311 mmol, 1.78 M, 1.29 mL | CC(C)([O-])C.[K+]
reactant | ethyl trans-4-[(5-bromo-1,3-thiazol-2-yl)carbonyl]cyclohexanecarboxylate | 1.444 mmol, 500 mg | BrC1=CN=C(S1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C13H16BrNO3S
catalyst | Methyl(triphenyl)phosphonium bromide | 2.166 mmol, 774 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)ethenyl]-cyclohexanecarboxylate | 62% | BrC1=CN=C(S1)C(=C)[C@@H]1CC[C@H](CC1)C(=O)OCC | C14H18BrNO2S
